US07851473B2
N-Pyridin-4-yl-4-[3-(2-thienyl)-1,2,4-thiadiazol-5-yl]piperazine-1-carboxamide
A mixed solution of 2,2,2-trichloroethyl pyridin-4-ylcarbamate (235 mg, 0.872 mmol), 1-[3-(2-thienyl)-1,2,4-thiadiazol-5-yl]piperazine (200 mg, 0.793 mmol) and diisopropylethylamine (0.152 ml, 0.872 mmol) in dimethyl sulfoxide (2.5 ml) was stirred at 80° C. for 3.5 hours. Water was poured to the reaction mixture, and the resulting solution was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate, followed by methanol:ethyl acetate=1:9) and recrystallized from a mixed solvent of hexane and ethyl acetate to give 54.9 mg (18.6%) of the desired product as a solid.

reactant | 2,2,2-trichloroethyl pyridin-4-ylcarbamate | 0.872 mmol, 235 mg | N1=CC=C(C=C1)NC(OCC(Cl)(Cl)Cl)=O | C8H7Cl3N2O2
reactant | 1-[3-(2-thienyl)-1,2,4-thiadiazol-5-yl]piperazine | 0.793 mmol, 200 mg | S1C(=CC=C1)C1=NSC(=N1)N1CCNCC1 | C10H12N4S2
reactant | diisopropylethylamine | 0.872 mmol, 0.152 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | dimethyl sulfoxide | 2.5 ml | CS(=O)C | C2H6OS
product | N-Pyridin-4-yl-4-[3-(2-thienyl)-1,2,4-thiadiazol-5-yl]piperazine-1-carboxamide | 54.9 mg, 18.6% | N1=CC=C(C=C1)NC(=O)N1CCN(CC1)C1=NC(=NS1)C=1SC=CC1 | C16H16N6OS2
